US07618978B2
4-Acetyl-2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester
Dissolve 2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester (144 mg, 0.29 mmol)) in dry dichloromethane (3 mL). Add 1-acetylimidazole (48 mg, 0.43 mmol) and triethylamine (0.081 mL, 0.58 mmol) and stir for 2 h. Dilute with ethyl acetate and wash with 1 N HCl and saturated aqueous sodium bicarbonate, dry (magnesium sulfate), and concentrate to give the title compound which is used in the next step without further purification.

reactant | 2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.29 mmol, 144 mg | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C31H37N3O3
reactant | 1-acetylimidazole | 0.43 mmol, 48 mg | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | triethylamine | 0.58 mmol, 0.081 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Acetyl-2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C)=O)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C33H39N3O4
